US06451816B1
4-(1-tert-Butoxycarbonylpiperidin-4-yl)-butan-1-ol
100 g (458 mmol) 4-piperidin-4-yl-butan-1-ol hydrochloride are dissolved in 120 ml water, added to 216 ml (1550 mmol) TEA and cooled to ca. 5-10° C. 122 g (559 mmol) di-tert-butyl dicarbonate dissolved in 400 ml THF are added dropwise within four hours under further cooling. The mixture is left to stand at RT overnight without further cooling. Subsequently, the THF is largely removed under vacuum and the residue is extracted twice with 300 ml and 200 ml CHCl3 and the combined organic phases are washed twice, each with 20 ml water. The solvent is removed under vacuum, the residue dried under high-vacuum and processed further without additional purification. Yield: 136 g.

reactant | 4-piperidin-4-yl-butan-1-ol hydrochloride | 458 mmol, 100 g | Cl.N1CCC(CC1)CCCCO
reactant | di-tert-butyl dicarbonate | 559 mmol, 122 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 120 ml | O | H2O
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | 4-(1-tert-Butoxycarbonylpiperidin-4-yl)-butan-1-ol | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCO | C14H27NO3
